US03944531
2-bromo-6-methyl-heptane was reacted with m-methoxy-phenol to obtain m-[(1,5-dimethyl-hexyl)-oxy]-anisole (boiling point = 210°-212°C/12 mmHg);

reactant | 2-bromo-6-methyl-heptane | BrC(C)CCCC(C)C | C8H17Br
reactant | m-methoxy-phenol | COC=1C=C(C=CC1)O | C7H8O2
product | m-[(1,5-dimethyl-hexyl)-oxy]-anisole | CC(CCCC(C)C)OC=1C=C(C=CC1)OC | C15H24O2
